US08802664B2
To a solution of 1-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenylsulfanylmethyl}cyclopropanecarboxylic acid methyl ester (56 mg) in tetrahydrofuran (5 mL) is added lithium aluminumhydride (25 mg) at 0° C. The reaction mixture is allowed to reach room temperature and ethyl acetate (2 mL) is added. After stirring for 5 minutes, a half-saturated aqueous solution of sodium carbonate (6 mL) is added. The aqueous phase is extracted with ethyl acetate. The pooled organic extracts are dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography (gradient dichloromethane/methanol/ammonia from 100/0/0 to 95/5/0.5) to afford 2-(1-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenylsulfanylmethyl}cyclopropyl)ethanol.

reactant | 1-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenylsulfanylmethyl}cyclopropanecarboxylic acid methyl ester | 56 mg | COC(=O)C1(CC1)CSC1=CC(=CC=C1)C(OC1CCN(CC1)C)C=1SC2=C(N1)C=CC=C2 | C26H30N2O3S2
reactant | lithium | [Li] | Li
reactant | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium carbonate | 6 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(1-{3-[benzothiazol-2-yl(1-methylpiperidin-4-yloxy)methyl]phenylsulfanylmethyl}cyclopropyl)ethanol | S1C(=NC2=C1C=CC=C2)C(C=2C=C(C=CC2)SCC2(CC2)CCO)OC2CCN(CC2)C | C26H32N2O2S2
